US09169254B2
A solution of [(4-bromo-3-trifluoromethyl-phenyl)-methyl-amino]-acetic acid methyl ester (77.6 mg, 0.238 mmol) in THF (1.0 ml) was added dropwise to a suspension of lithium aluminum hydride (372 mg, 2.58 mmol) in THF (1.5 ml) at 0° C. The mixture was stirred for 14 hours while gradually warming from 0° C. to room temperature. A 2 N aqueous HCl solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was sequentially washed with water and saturated brine and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-ethyl acetate) to give 2-[(4-bromo-3-trifluoromethyl-phenyl)-methyl-amino]-ethanol (58.0 mg, 82%).

reactant | [(4-bromo-3-trifluoromethyl-phenyl)-methyl-amino]-acetic acid methyl ester | 0.238 mmol, 77.6 mg | COC(CN(C)C1=CC(=C(C=C1)Br)C(F)(F)F)=O | C11H11BrF3NO2
reactant | lithium aluminum hydride | 2.58 mmol, 372 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 2-[(4-bromo-3-trifluoromethyl-phenyl)-methyl-amino]-ethanol | 58.0 mg, 82% | BrC1=C(C=C(C=C1)N(CCO)C)C(F)(F)F | C10H11BrF3NO
